US08871782B2
A modification of the general method described in Part L of Example 2 was used to treat 1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-ol with tert-butyl 3-iodopropylcarbamate. The reaction mixture was diluted with water; a precipitate formed. The precipitate was isolated by filtration, washed with water and then with diethyl ether until the filtrate was clear, and dried overnight in a vacuum oven at 60° C. to yield tert-butyl 3-{[1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propylcarbamate as a tan powder.

reactant | 1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-ol | CC(CN1C(=NC=2C=NC=3C=C(C=CC3C21)O)CCC)C | C17H21N3O
reactant | tert-butyl 3-iodopropylcarbamate | ICCCNC(OC(C)(C)C)=O | C8H16INO2
solvent | water | O | H2O
product | tert-butyl 3-{[1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propylcarbamate | CC(CN1C(=NC=2C=NC=3C=C(C=CC3C21)OCCCNC(OC(C)(C)C)=O)CCC)C | C25H36N4O3
